US08648200B2
2-Methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine
Dissolve 2-bromo-1-[4-(trifluoromethyl)phenyl]propan-1-one (7.120 g, 25.332 mmol) and 2-aminopyrimidine (5.464 g, 55.729 mmol) in EtOH (40.0 mL). Heat the mixture to reflux, and stir for 24 hours. Concentrate in vacuo. Dissolve the residue in EtOAc (750 mL); and wash sequentially with saturated aqueous NaS2O3 (250 mL), saturated aqueous NaHCO3 (250 mL), and saturated NaCl (350 mL). Crystallize the orange residue from heptanes/EtOAc to give the title product as a white solid (3.29 g, 46.85% yield). 1H NMR (399.83 MHz, d6-DMSO) δ 8.84 (dd, J=1.9, 7.0 Hz, 1H), 8.54 (dd, J=2.0, 4.2 Hz, 1H), 8.06-8.04 (m, 2H), 7.83-7.81 (m, 2H), 7.10 (dd, J=4.1, 6.9 Hz, 1H), 2.68 (s, 3H).

reactant | 2-bromo-1-[4-(trifluoromethyl)phenyl]propan-1-one | 25.332 mmol, 7.120 g | BrC(C(=O)C1=CC=C(C=C1)C(F)(F)F)C | C10H8BrF3O
reactant | 2-aminopyrimidine | 55.729 mmol, 5.464 g | NC1=NC=CC=N1 | C4H5N3
solvent | EtOH | 40.0 mL | CCO | C2H6O
product | 2-Methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine | 3.29 g, 46.85% yield | CC=1N=C2N(C=CC=N2)C1C1=CC=C(C=C1)C(F)(F)F | C14H10F3N3
